US09353108B2
D) Ethyl 4′-fluoro-2-propoxy-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate
Trifluoromethanesulfonic anhydride (20.1 mL) was added at 0° C. to a mixture of ethyl 4′-fluoro-2-hydroxy-6-propoxybiphenyl-4-carboxylate (31.5 g) and pyridine (200 mL), and the resultant mixture was stirred at the same temperature as above for 20 minutes. The reaction mixture was passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (44.6 g).

reactant | Trifluoromethanesulfonic anhydride | 20.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl 4′-fluoro-2-hydroxy-6-propoxybiphenyl-4-carboxylate | 31.5 g | FC1=CC=C(C=C1)C1=C(C=C(C=C1OCCC)C(=O)OCC)O | C18H19FO4
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 4′-fluoro-2-propoxy-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate | 44.6 g | FC1=CC=C(C=C1)C1=C(C=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OCC)OCCC | C19H18F4O6S
